US06051737
0.47 g (2.3 mmol) of 2-bromobenzamide and 0.34 g (2.7 mmol, 1.2 eq) of oxalyl chloride were added to 10 ml of 1,2-dichloroethane and then the mixture was stirred for 8 hours at 100° C. The reaction solution was cooled down to room temperature. The reaction solvent and excessive oxalyl chloride were removed by distillation under reduced pressure to obtain 2-bromobenzoyl isocyanate in an oily state. 10 ml of fresh 1,2-dichloroethane and 0.64 g (2.3 mmol) of 2-bromo-4-chloro-5-trifluoromethyl aniline were successively added thereto, reacted for 2 hours and filtered to obtain 0.25 g (Yield 22%) of the title compound as a solid.

reactant | 2-bromobenzamide | 2.3 mmol, 0.47 g | BrC1=C(C(=O)N)C=CC=C1 | C7H6BrNO
reactant | oxalyl chloride | 2.7 mmol, 0.34 g, 1.2 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | 2-bromobenzoyl isocyanate | BrC1=C(C(=O)N=C=O)C=CC=C1 | C8H4BrNO2
